US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and 2,6-dimethoxynicotinoyl chloride were combined to provide N3-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2,6-dimethoxynicotinamide as an off white powder, m.p. 175.0-177.0° C. 1H NMR (300 MHz, DMSO-d6) 8.21 (s, 1H), 8.11-8.02 (m, 3H), 7.62 (d, J=8.2 Hz, 1H), 7.42 (t, J=7.5 Hz, 1H), 7.20 (t, J=7.5 Hz, 1H), 6.58 (broad s, 2H), 6.46 (d, J=8.3 Hz, 1H), 4.63 (t, J=7.0 Hz, 2H), 3.90 (s, 3H), 3.88 (s, 3H), 3.30 (m, 2H), 1.90 (m, 2H), 1.57 (m, 2H); MS (EI) m/e 420.1909 (420.1910 calcd for C22H24N6O3).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 2,6-dimethoxynicotinoyl chloride | COC1=C(C(=O)Cl)C=CC(=N1)OC | C8H8ClNO3
product | N3-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2,6-dimethoxynicotinamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(C2=C(N=C(C=C2)OC)OC)=O | C22H24N6O3
